US04346094
A solution of 4.5 g. of methyl 3-(3-trifluoromethylphenyl)-4-amino-5-isothiazolecarboxylate and 5.1 g. of isoamyl nitrite in 50 ml. of tetrahydrofuran was heated to reflux for one-half hour. The reaction mixture then was cooled, and the solvent was removed by evaporation under reduced pressure to provide a solid product which was crystallized from ethanol and water to give 2.8 g. (66% yield) of methyl 3-(3-trifluoromethylphenyl)-5-isothiazolecarboxylate. M.P. 82°-83° C.

reactant | methyl 3-(3-trifluoromethylphenyl)-4-amino-5-isothiazolecarboxylate | FC(C=1C=C(C=CC1)C1=NSC(=C1N)C(=O)OC)(F)F | C12H9F3N2O2S
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-(3-trifluoromethylphenyl)-5-isothiazolecarboxylate | 66% yield | FC(C=1C=C(C=CC1)C1=NSC(=C1)C(=O)OC)(F)F | C12H8F3NO2S
